US06610738B2
7-Ethoxy-2′-methoxyflavone (7.4 g, 0.025 mol) was agitated in dichloromethane (100 ml). Boron tribromide (9.4 g, 3.6 ml, 0.0375 mol) in dichloromethane (100 ml) was added dropwise for an hour. The agitation was continued at room temperature for 24 hours. The reaction mixture was poured onto a mixture of crushed ice (100 g) and 36% hydrochloric acid (10 ml). After stirring the mixture for an hour, the precipitate was filtered off. 2.15 g (29%) of unreacted 7-ethoxy-2′-methoxyflavone was recovered. The filtrate was evaporated under reduced pressure to remove dichloromethane. From the aqueous residue, crude 7-ethoxy-2′-hydroxyflavone was obtained by filtration. The crude product was dried, thoroughly pulverized and treated with boiling chloroform for half an hour. The undissolved product was collected by filtration from the cooled mixture; and the crude 7-ethoxy-2′-hydroxyflavone was crystallized from dimethylformamide to give 3.10 g (43.9%) (m.p.: 295-297° C.).

reactant | 7-Ethoxy-2′-methoxyflavone | 0.025 mol, 7.4 g | C(C)OC1=CC=C2C(C=C(OC2=C1)C1=C(C=CC=C1)OC)=O | C18H16O4
reactant | Boron tribromide | 0.0375 mol, 3.6 ml, 9.4 g | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-ethoxy-2′-hydroxyflavone | C(C)OC1=CC=C2C(C=C(OC2=C1)C1=C(C=CC=C1)O)=O | C17H14O4
